US04599333
Concentrated hydrochloric acid (1.4 ml) and 5% palladium carbon was added to a solution of 3 g of 1-(2-methylphenoxy)-3-(1,1-dimethyl-2-dibenzylaminoethylamino)-2-propanol in 10 ml of ethanol, and the mixture was hydrogenated at room temperature for 24 hours. After the catalyst was removed by filtration, the filtrate was concentrated under reduced pressure. The residue was dissolved in water, made alkaline with potassium carbonate, then extracted with chloroform, and dried over anhydrous magnesium sulfate. 1.585 g of 1-(2-methylphenoxy)-3-(1,1-dimethyl-2-aminoethylamino)-2-propanol was obtained as a colorless oil.

reactant | hydrochloric acid | 1.4 ml | Cl | ClH
reactant | 1-(2-methylphenoxy)-3-(1,1-dimethyl-2-dibenzylaminoethylamino)-2-propanol | 3 g | CC1=C(OCC(CNC(CN(CC2=CC=CC=C2)CC2=CC=CC=C2)(C)C)O)C=CC=C1 | C28H36N2O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium carbon | [C].[Pd]
product | 1-(2-methylphenoxy)-3-(1,1-dimethyl-2-aminoethylamino)-2-propanol | 1.585 g | CC1=C(OCC(CNC(CN)(C)C)O)C=CC=C1 | C14H24N2O2
